US07544697B2
To a solution of 1-butyl-5-[2-(propylsulfonyl)ethyl]-1H-pyrazole-3-carboxylic acid (4.00 g, 13.22 mmol) in dichloromethane (66 mL) was added oxalyl chloride (3.5 mL, 39.7 mmol) and a drop of DMF. The solution bubbled vigorously and was stirred at ambient temperature for 30 minutes. The solution was concentrated under reduced pressure. The residue was dissolved in dichloromethane (66 mL) and the resulting solution was cooled in an ice bath, then concentrated ammonium hydroxide (66 mL) was added dropwise. After the addition was complete, the ice bath was removed and the mixture was stirred at ambient temperature for 2 hours. The volatiles were removed under reduced pressure to afford a slurry that was extracted with chloroform (2×100 mL). The organic layers were combined and concentrated under reduced pressure to afford 4.0 g of 1-butyl-5-[2-(propylsulfonyl)ethyl]-1H-pyrazole-3-carboxamide as a white solid.

reactant | 1-butyl-5-[2-(propylsulfonyl)ethyl]-1H-pyrazole-3-carboxylic acid | 13.22 mmol, 4.00 g | C(CCC)N1N=C(C=C1CCS(=O)(=O)CCC)C(=O)O | C13H22N2O4S
reactant | oxalyl chloride | 39.7 mmol, 3.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | 66 mL | ClCCl | CH2Cl2
product | 1-butyl-5-[2-(propylsulfonyl)ethyl]-1H-pyrazole-3-carboxamide | 4.0 g | C(CCC)N1N=C(C=C1CCS(=O)(=O)CCC)C(=O)N | C13H23N3O3S
